US05756531
Preparation of phenoxyacetaldehyde-O-2-[Z-5-fluoro-2-methyl-1-(4-pyridyl)methylene-1H-inden-3-yl]ethyl oxime
The title compound is prepared by reaction of O-2-[Z-5-fluoro-2-methyl-1-(4-pyridyl)methylene-1H-inden-3-yl]ethyl hydroxylamine with phenoxyacetaldehyde by the method of Example 1.

reactant | O-2-[Z-5-fluoro-2-methyl-1-(4-pyridyl)methylene-1H-inden-3-yl]ethyl hydroxylamine | FC=1C=C2C(=C(/C(/C2=CC1)=C/C1=CC=NC=C1)C)CCON | C18H17FN2O
reactant | phenoxyacetaldehyde | O(C1=CC=CC=C1)CC=O | C8H8O2
product | phenoxyacetaldehyde-O-2-[Z-5-fluoro-2-methyl-1-(4-pyridyl)methylene-1H-inden-3-yl]ethyl oxime | FC=1C=C2C(=C(/C(/C2=CC1)=C/C1=CC=NC=C1)C)CCON=CCOC1=CC=CC=C1 | C26H23FN2O2
